US08293913B2
0.081 g of (1S,5S)-3-(3-(3-fluorophenylsulfonyl)quinolin-8-yl)-3-aza-6-azoniabicyclo[3.2.0]heptane hydrochloride were prepared by analogy to the methods of Examples 27 and 28 by coupling of 3-(3-fluorophenylsulfonyl)-8-iodoquinoline with (1R,5S)-tert-butyl 3,6-diazabicyclo[3.2.0]heptane-6-carboxylate and subsequent deprotection of the tert-butyl-oxycarbonyl derivative with HCl in isopropanol.

reactant | 3-(3-fluorophenylsulfonyl)-8-iodoquinoline | FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)I | C15H9FINO2S
reactant | (1R,5S)-tert-butyl 3,6-diazabicyclo[3.2.0]heptane-6-carboxylate | [C@@H]12CNC[C@H]2N(C1)C(=O)OC(C)(C)C | C10H18N2O2
reactant | HCl | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | (1S,5S)-3-(3-(3-fluorophenylsulfonyl)quinolin-8-yl)-3-aza-6-azoniabicyclo[3.2.0]heptane hydrochloride | 0.081 g | Cl.FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1C[C@@H]2C[NH2+][C@@H]2C1 | InChI=1S/C20H18FN3O2S.ClH/c21-15-4-2-5-16(8-15)27(25,26)17-7-13-3-1-6-19(20(13)23-10-17)24-11-14-9-22-18(14)12-24;/h1-8,10,14,18,22H,9,11-12H2;1H/p+1/t14-,18+;/m0./s1
